US06420142B1
0.32 g of citric acid monohydrate is dissolved in 150 ml of completely deionized water, and 150 ml of methyl acetate are added. The emulsion is subsequently adjusted to a pH of 5.0 using 2.5 g of 1 normal aqueous sodium hydroxide solution, and 5.0 g of rutin and 0.125 g of hesperidinase are introduced under a nitrogen atmosphere. The reaction mixture is then stirred (250 revolutions/minute) at a reaction temperature of 40° C. for 21 h. After customary work-up, rhamnose and 3.41 g of yellow crystals are obtained. The analysis of the yellow crystals by means of HPLC results in the following composition:

reactant | citric acid monohydrate | 0.32 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | rutin | 5.0 g | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=C(OC=4C=C(C=C(C4C3=O)O)O)C=5C=CC(=C(C5)O)O)O)O)O)O)O)O | C27H30O16
solvent | water | O | H2O
solvent | methyl acetate | 150 ml | C(C)(=O)OC | C3H6O2
product | rhamnose | O=C[C@H](O)[C@H](O)[C@@H](O)[C@@H](O)C | C6H12O5
